US04743601
3-Bromo-N-(2-hydroxypropyl)-4-quinolinamine
A mixture of 3 g of 3-bromo-4-chloro-quinoline and 10 g of aminopropanol-2 was heated to 150° C. for 20 minutes. The mixture was cooled and poured into 120 ml of water and the product was extracted with 100 ml of ether. The ether layer was dried over sodium sulfate, the solvent removed by evaporation and the residue recrystallized from ether/hexane. The yield was 2.6 g, mp 82°-83° C.

reactant | 3-bromo-4-chloro-quinoline | 3 g | BrC=1C=NC2=CC=CC=C2C1Cl | C9H5BrClN
reactant | water | 120 ml | O | H2O
product | 3-Bromo-N-(2-hydroxypropyl)-4-quinolinamine | BrC=1C=NC2=CC=CC=C2C1NCC(C)O | C12H13BrN2O
